US08809352B2
4′-Chloro-biphenyl-2-carbaldehyde
To a solution of 2-bromobenzaldehyde (18.0 g, 97.0 mmol) and 4-chloro-phenylboronic acid (19.0 g, 122 mmol) in a 1:1 mixture of ethanol/DME (400 mL) is added a solution of potassium carbonate (26.9 g, 195 mmol) in water (100 mL), and the reaction mixture is purged with nitrogen for 30 minutes. Tetrakis(triphenyl-phosphine)palladium (5.62 g, 4.86 mmol) is then added, and the reaction is purged again with nitrogen for 20 minutes. The pale yellow-green solution is heated to 75° C. and stirred for 20 hours. The reaction is then cooled to room temperature, diluted with ethyl acetate (200 mL), and filtered through a ZAPCAP filter. The filtrate is washed with brine (400 mL) and the aqueous layer is back-extracted with ethyl acetate (2×200 mL). The combined organic layers are dried over MgSO4 and concentrated to afford an orange oily solid. This crude material is purified via flash chromatography on silica gel (0-20% EtOAd heptanes) to afford the title compound (14.9 g, 71% yield). 1H NMR (400 MHz, CDCl3) δ 10.0 (s, 1H), 8.05 (d, J=7.5 Hz, 1H), 7.68 (t, J=6.2 Hz, 1H), 7.54 (t, J=7.4 Hz, 1H), 7.49 (d, J=9.4 Hz, 2H), 7.45 (d, J=9.1 Hz, 1H), 7.34 (d, J=8.5 Hz, 2H).

reactant | 2-bromobenzaldehyde | 97.0 mmol, 18.0 g | BrC1=C(C=O)C=CC=C1 | C7H5BrO
reactant | 4-chloro-phenylboronic acid | 122 mmol, 19.0 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | ethanol DME | 400 mL | C(C)O.COCCOC
reactant | potassium carbonate | 195 mmol, 26.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 100 mL | O | H2O
product | 4′-Chloro-biphenyl-2-carbaldehyde | 14.9 g, 71% yield | ClC1=CC=C(C=C1)C=1C(=CC=CC1)C=O | C13H9ClO
